US07875645B2
2,6-Diethyl-3-hydroxy-benzaldehyde was prepared from 2,6-diethyl-3-methoxy-benzaldehyde and boron tribromide in analogy to Example 213a): brown crystals; MS (ISP): 177.4 ([M-H]−, 100%).

reactant | 2,6-diethyl-3-methoxy-benzaldehyde | C(C)C1=C(C=O)C(=CC=C1OC)CC | C12H16O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 2,6-Diethyl-3-hydroxy-benzaldehyde | C(C)C1=C(C=O)C(=CC=C1O)CC | C11H14O2
